US08097628B2
A solution of 4-[(1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-(hydroxymethyl)ethyl]-6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one (494.1 g, 1.34 mol) and MnO2 (584.4 g, 6.72 mol) in DCM (18 L) was stirred at room temperature for 1 h. The mixture was filtered through celite and the filtrate was evaporated to give a purple/white solid. The crude was purified by column chromatography and mixtures of heptane and EtOAc as eluent to give of 451.6 g (66%) of 4-[(1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-(hydroxymethyl)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one.

reactant | 4-[(1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-(hydroxymethyl)ethyl]-6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one | 1.34 mol, 494.1 g | CC(C)(C)[Si](OC[C@H](CO)N1C2=C(NCC1=O)C=CC(=N2)OC)(C)C | C17H29N3O4Si
solvent | DCM | 18 L | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 6.72 mol, 584.4 g | O=[Mn]=O
product | 4-[(1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-(hydroxymethyl)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | 451.6 g, 66% | CC(C)(C)[Si](OC[C@H](CO)N1C2=C(N=CC1=O)C=CC(=N2)OC)(C)C | C17H27N3O4Si
